US07872026B2
10 g (23 mmol) of ethyl 4′-hydroxy-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate are dissolved in 400 ml of tetrahydrofuran. 9.2 g (35 mmol) of triphenylphosphine and 6.9 ml (35 mmol) of diisopropyl azodicarboxylate are added and the reaction medium is stirred at room temperature for 30 minutes. 2.8 ml (28 mmol) of 4-chlorobutanol are then added, and the medium is kept stirring for 12 hours, and then poured into 500 ml of water and extracted with ethyl acetate. The residue obtained is purified by chromatography on silica gel (eluent: 80/20 heptane/ethyl acetate). 8.9 g of ethyl 4′-(4-chlorobutoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate are obtained in the form of a colorless oil (yield=73%).

reactant | ethyl 4′-hydroxy-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 23 mmol, 10 g | OC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C29H32O3
reactant | triphenylphosphine | 35 mmol, 9.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 35 mmol, 6.9 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 4-chlorobutanol | 28 mmol, 2.8 ml | ClCCCCO | C4H9ClO
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | ethyl 4′-(4-chlorobutoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 8.9 g | ClCCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C33H39ClO3
